data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_519999_2,[C:1]([N:2]([C:3]([N:5]([H:13])[H:14])=[C:7]([H:16])[H:17])[H:9])([N:4]([H:11])[H:12])([C:6](=[C:8]([H:18])[H:19])[H:15])[H:10]>>[C:1]1([N:4]([H:11])[H:12])([H:10])[N:2]([H:9])[C:3](=[C:7]([H:16])[H:17])[N:5]([H:14])[C:6]1([C:8]([H:13])([H:18])[H:19])[H:15],59.34769499997231
MR_139476_0,[C:1]([C:4]([H:19])([H:20])[H:21])(/[C:6]([N:7]([H:9])[H:10])=[N:8]/[N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])(/[N:8]=[C:6](/[N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[N:7]([H:9])[H:10])([H:11])[H:12],59.39099250000567
MR_161500_0,[C:1](/[C:3]([C:2]([N:4]([H:8])[H:9])=[O:7])=[C:6](/[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[C:6](\[C:2]([N:4]([H:8])[H:9])=[O:7])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],56.365815000010286
MR_28583_0,[C:1]([C:3](/[C:5](=[N:7]/[N:4]([H:8])[H:9])[H:10])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:10])[N:7]([N:4]([H:8])[H:9])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],44.94782499998152
MR_363021_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]12[C:5]([H:10])=[C:3]([O:7][H:9])[N:8]1[O:6]2)([H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([c:4]1[c:5]([H:10])[c:3]([O:7][H:9])[n:8][o:6]1)([H:11])[H:12],17.092472499969773
MR_289242_0,[C:1](/[N:7]=[C:6](/[N:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[H:11])[N:5]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:7](/[C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[H:11])/[C:6](=[N:3]/[N:5]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],50.70200000000668
MR_562291_1,[C:1](/[N:9]=[C:3](\[N:2]([C:4]([N:7]([H:14])[H:15])=[C:8]([H:19])[H:20])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:16])([H:17])[H:18]>>[C:1]([N:9](/[C:3](=[N:2]/[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[C:4]([N:7]([H:14])[H:15])=[C:8]([H:19])[H:20])([H:16])([H:17])[H:18],51.43554750000945
MR_691609_2,[C:1]([C:4]([O:5][C:2]([H:12])([H:13])[H:14])=[O:9])([O:6][C:3]([H:15])([H:16])[H:17])([O:7][H:10])[O:8][H:11]>>[C:1]([C:4]([O:5][C:2]([H:12])([H:13])[H:14])([O:6][C:3]([H:15])([H:16])[H:17])[O:9][H:11])([O:7][H:10])=[O:8],37.73345750011174
MR_597014_0,[C:1]([C:2]([O:6][N:4]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:5][O:7][H:8])[H:9]>>[C:1]([C:2]([O:5][O:7][H:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:6][N:4]([H:10])[H:11])[H:9],72.64881249999064
MR_7183_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([O:5][O:6][H:7])([H:8])[H:9]>>[C:1]([O:5][C:3]([C:2]([H:10])([H:11])[H:12])=[C:4]([H:13])[H:14])([O:6][H:7])([H:8])[H:9],63.22878249998254
MR_35005_0,[C:1]([C:2](/[C:4](=[N:6]/[H:11])[H:8])([H:12])[H:13])([N:3]([H:9])[H:10])([O:5][H:7])[H:14]>>[C:1]([C:2]([C:4]([N:6]([H:7])[H:11])([H:8])[H:14])([H:12])[H:13])([N:3]([H:9])[H:10])=[O:5],49.04539999998022
MR_304244_0,[C:1]([C:2]([C:3]([N:4]([H:7])[H:8])=[C:5]([H:12])[H:13])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:2]1=[C:3]([N:4]([H:7])[H:8])[C:5]([H:12])([H:13])[O:6]1)([H:9])([H:10])[H:11],61.6267749999966
MR_176695_1,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](/[C:2]([H:13])([H:14])[H:15])[O:8][H:10])([O:6][O:7][H:9])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[C@@:4]([C:2]([H:13])([H:14])[H:15])([O:6][O:7][H:9])[O:8][H:10])([H:11])[H:12],42.56897250003078
MR_345320_1,[C:1]([C:6](=[C:5]([N:9]([H:11])[H:12])[N:10]([H:13])[H:14])[C:7]([C:2]([H:18])([H:19])[H:20])=[C:8]([C:3]([H:21])([H:22])[H:26])[C:4]([H:23])([H:24])[H:25])([H:15])([H:16])[H:17]>>[C:1]([C:6]1=[C:7]([C:2]([H:18])([H:19])[H:20])[C:8]([C:3]([H:21])([H:22])[H:26])([C:4]([H:23])([H:24])[H:25])[C:5]1([N:9]([H:11])[H:12])[N:10]([H:13])[H:14])([H:15])([H:16])[H:17],41.52732250002117
MR_481360_1,[C:1]12([H:11])[C:2]([H:12])([C:3]1([H:13])[H:14])[O:8][C:7]([C:5]([H:18])([H:19])[H:20])([O:9][H:10])[N:6]2[C:4]([H:15])([H:16])[H:17]>>[C:1]1([N:6]([C:4]([H:15])([H:16])[H:17])[C:7]([C:5]([H:18])([H:19])[H:20])=[O:9])([H:11])[C:2]([O:8][H:10])([H:12])[C:3]1([H:13])[H:14],25.4288099999674
MR_614778_1,[C:1]([C:4]1([N:2]([N:6]([H:12])[H:13])[H:10])[C:5]([C:9]([N:3]([N:7]([H:14])[H:15])[H:11])([H:20])[H:21])=[C:8]1[H:16])([H:17])([H:18])[H:19]>>[C:1](/[C:4]([N:2]([N:6]([H:12])[H:13])[H:10])=[C:8](\[C:5]([N:3]([N:7]([H:14])[H:15])[H:11])=[C:9]([H:20])[H:21])[H:16])([H:17])([H:18])[H:19],32.71220249998393
MR_692873_0,[N:1]([N:2]([H:8])[H:9])(/[C:4](=[C:5](\[N:3]([H:10])[H:11])[H:13])[H:12])[N:6][O:7]>>[N:1](\[N:2]([H:8])[H:9])=[C:4](\[C@:5]([N:3]([H:10])[H:11])([N:6]=[O:7])[H:13])[H:12],35.27930499999442
MR_682219_0,[N:1]1([N:5]([H:11])[H:12])[C:3](=[C:7]([H:15])[H:16])[O:8][C:2]([O:9][H:10])=[C:4]1[N:6]([H:13])[H:14]>>[N:1](=[C:4](/[C@@:2]1([O:9][H:10])[C:3](=[C:7]([H:15])[H:16])[O:8]1)[N:6]([H:13])[H:14])\[N:5]([H:11])[H:12],62.09488999999181
MR_164950_1,[N:1]1([O:6][H:8])[C:4]2([H:11])[C:5]([H:12])=[C:2]([N:3]([H:9])[H:10])[N:7]12>>[n:1]1([O:6][H:8])[c:4]([H:11])[c:5]([H:12])[c:2]([N:3]([H:9])[H:10])[n:7]1,20.492267499982404
